US05840732
i) Synthesis of 5-(4-chlorobutylsulfonyl)imidazo[1,2-a]pyridine
To a solution of 0.88 g (3.47 mmol) of 5-(4-chlorobutylsulfinyl)imidazo[1,2-a]pyridine in 15 ml of dichloromethane, 0.90 g (5.20 mmol) of m-chloroperbenzoic acid was added at 0° C., followed by stirring at room temperature for 64 hours. 0.6 g (3.47 mmol) of m-chloroperbenzoic acid was further added to the reaction mixture, followed by stirring for 5 hours. The reaction mixture was poured into saturated aqueous sodium hydrogen carbonate, extracted with dichloromethane and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, n-hexane/ethyl acetate=1/4) to yield 0.28 g (29.7%, yellow oily substance) of the desired product.

reactant | 5-(4-chlorobutylsulfinyl)imidazo[1,2-a]pyridine | 3.47 mmol, 0.88 g | ClCCCCS(=O)C1=CC=CC=2N1C=CN2 | C11H13ClN2OS
reactant | m-chloroperbenzoic acid | 5.20 mmol, 0.90 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | m-chloroperbenzoic acid | 3.47 mmol, 0.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 5-(4-chlorobutylsulfonyl)imidazo[1,2-a]pyridine | ClCCCCS(=O)(=O)C1=CC=CC=2N1C=CN2 | C11H13ClN2O2S
